US09227971B2
2-Chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (5.55 mmol, 1327 mg), K3PO4 (14.48 mmol, 3070 mg), and PdCl2(dppf).CH2Cl2 (0.48 mmol, 394 mg) were added to a solution of tert-butyl 3-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-iodopyrazolo[1,5-a]pyrimidin-5-yl)-8-azabicyclo[3.2.1]octane-8-carboxylate (1.98 mmol, 1101 mg) in dioxane (40 mL) and H2O (4 mL). The resulting solution was stirred at 70° C. under argon overnight. The mixture was diluted with H2O and then extracted with ethyl acetate (×2). The combined organic layers were washed with brine and dried with Na2SO4. Evaporation and purification by column chromatography afforded tert-butyl 3-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-chloropyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-8-azabicyclo[3.2.1]octane-8-carboxylate, LCMS tR=3.29 Min (5 min run, UV254nm). Mass calculated for M+H 715.35, observed LC/MS m/z 715.02 (M+H).

reactant | 2-Chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 5.55 mmol, 1327 mg | ClC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C11H15BClNO2
reactant | K3PO4 | 14.48 mmol, 3070 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | CH2Cl2 | 0.48 mmol, 394 mg | C(Cl)Cl | CH2Cl2
reactant | tert-butyl 3-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-iodopyrazolo[1,5-a]pyrimidin-5-yl)-8-azabicyclo[3.2.1]octane-8-carboxylate | 1.98 mmol, 1101 mg | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2I)C2CC1CCC(C2)N1C(=O)OC(C)(C)C)COCC[Si](C)(C)C)(C)C | C30H52IN5O4Si2
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 4 mL | O | H2O
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 3-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-chloropyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-8-azabicyclo[3.2.1]octane-8-carboxylate | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2C=2C=NC(=CC2)Cl)C2CC1CCC(C2)N1C(=O)OC(C)(C)C)COCC[Si](C)(C)C)(C)C | C35H55ClN6O4Si2
